US04562281
To the same flask as used in Example 1 were added 340.51 g (1.0 mole) of 2,2'-methylenebis(6-tert-butyl-4-methylphenol), 74.08 g (1.0 mole) of propionic acid, 500 g of toluene and 191.42 g (2.42 moles) of pyridine. After replacing the air in the container with nitrogen, 210.05 g (1.1 moles) of o-toluenesulfonyl chloride was added dropwise with stirring. After completion of the dropwise addition, the reaction solution was kept at 100° C. for 1 hour and then aftertreated in the same manner as in Example 2 to obtain 384.7 g of a white crystalline 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monopropionate having a melting point of 108° to 110° C. Yield, 97%.

reactant | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) | 1.0 mole, 340.51 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
reactant | propionic acid | 1.0 mole, 74.08 g | C(CC)(=O)O | C3H6O2
reactant | pyridine | 2.42 moles, 191.42 g | N1=CC=CC=C1 | C5H5N
reactant | o-toluenesulfonyl chloride | 1.1 moles, 210.05 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
product | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monopropionate | 384.7 g | C(CC)(=O)OC1=C(C=C(C=C1C(C)(C)C)C)CC1=C(C(=CC(=C1)C)C(C)(C)C)O | C26H36O3
